US05721230
A solution of 1.25 g (2.32 mmol) of 3-[8(R or S)-[1(R or S)-tertbutoxyformamidoethyl]-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione (diastereomer A) in 10 ml of ethyl acetate was treated with 30 ml of a saturated solution of hydrogen chloride in ethyl acetate and stirred at room temperature for 18 hours. The solid obtained was removed by filtration and dried to give 1.0 g of 3-[8(R or S)-[1(R or S)-aminoethyl]-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione hydrochloride (diastereomer A) as a red solid of melting point 324°-325° C.

reactant | 4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | CN1C=C(C2=CC=CC=C12)C1=CC(NC1=O)=O | C13H10N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione hydrochloride | Cl.CN1C=C(C2=CC=CC=C12)C1=CC(NC1=O)=O | InChI=1S/C13H10N2O2.ClH/c1-15-7-10(8-4-2-3-5-11(8)15)9-6-12(16)14-13(9)17;/h2-7H,1H3,(H,14,16,17);1H
